US04314061
3,6-bis(3-diethylaminopropoxy)acridine trihydrochloride
The compound is prepared from 3,6-bis(3-chloropropoxy)acridine hydrochloride and diethylamine as described in Example 15 except that the mixture is heated at 100° C. for 24 hours, giving 1.5 g. of the desired product as yellow crystals, m.p. 235°-236° C.

reactant | 3,6-bis(3-chloropropoxy)acridine hydrochloride | Cl.ClCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCl
reactant | diethylamine | C(C)NCC | C4H11N
product | 3,6-bis(3-diethylaminopropoxy)acridine trihydrochloride | Cl.Cl.Cl.C(C)N(CCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCN(CC)CC)CC | InChI=1S/C27H39N3O2.3ClH/c1-5-29(6-2)15-9-17-31-24-13-11-22-19-23-12-14-25(21-27(23)28-26(22)20-24)32-18-10-16-30(7-3)8-4;;;/h11-14,19-21H,5-10,15-18H2,1-4H3;3*1H
